US09388172B2
In a 10 mL pear-shaped flask, 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanoic acid (40 mg, 104 μmol) and HATU (39.7 mg, 104 μmol) were combined with DMF (1 ml) to give a colorless solution. After 5 min of stirring, 2-amino-1-(4-chlorophenyl)ethanone HCl (21.5 mg, 104 μmol) was added followed by drop-wise addition of DIEA (47.2 mg, 63.8 μl, 365 μmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate (30 ml), washed with brine and H2O, dried over MgSO4, filtered and concentrated in vacuo to give an oil. The crude material was purified by flash chromatography (silica gel, 12 g, 0% to 50% ethyl acetate in CH2Cl2) to afford 36 mg (65%) of N-(2-(4-chlorophenyl)-2-oxoethyl)-4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanamide as an oil. MH+=535.

reactant | 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanoic acid | 104 μmol, 40 mg | FC(C(CC(=O)O)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H19F6NO2
reactant | HATU | 104 μmol, 39.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-amino-1-(4-chlorophenyl)ethanone HCl | 104 μmol, 21.5 mg | Cl.NCC(=O)C1=CC=C(C=C1)Cl
reactant | DIEA | 365 μmol, 63.8 μl, 47.2 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(2-(4-chlorophenyl)-2-oxoethyl)-4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanamide | 36 mg, 65% | ClC1=CC=C(C=C1)C(CNC(CC(C(F)(F)F)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H25ClF6N2O2
